US06054605
3-chloro-2-fluoro-6-trifluoromethylbenzonitrile (Compound No. 32)
To a solution of 0.96 g of 2,3-dichloro-6-trifluoromethylbenzonitrile in 7 ml of N,N-dimethylformamide was added 0.46 g of spray-dried potassium fluoride and 0.1 g of 18-crown-6-ether and the mixture was stirred for 6 hours at 100° C. under a nitrogen atmosphere. After cooling, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous magnesium sulfate. After distilling the solvent under reduced pressure, the crude product obtained was purified by using silica gel column chromatography to obtain 0.65 g of the title compound(mp. 43-44° C.).

reactant | 2,3-dichloro-6-trifluoromethylbenzonitrile | 0.96 g | ClC1=C(C#N)C(=CC=C1Cl)C(F)(F)F | C8H2Cl2F3N
reactant | potassium fluoride | 0.46 g | [F-].[K+]
reactant | 18-crown-6-ether | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 3-chloro-2-fluoro-6-trifluoromethylbenzonitrile | 0.65 g | ClC=1C(=C(C#N)C(=CC1)C(F)(F)F)F | C8H2ClF4N
